US05227398
Dissolved in 15.0 ml of N,N-dimethylformamide were 959 mg of 3-(1,3-benzodioxol-5-yl)-2-(1,3-dithiol-2-ylidene)-3-oxopropionic acid and 997 μl of triethylamine, followed by the addition of 469 mg of methyl glycinate hydrochloride. The reaction mixture was ice-cooled, to which 737 μl of diphenylphosphoryl azide were added. The resulting mixture was stirred for 3 hours and, while allowing its temperature to rise to room temperature, was stirred overnight. The reaction mixture was extracted with ethyl acetate. The resulting organic layer was washed with water, shaken together with a saturated aqueous NaCl solution and then dried over anhydrous sodium sulfate. The solvent was distilled off, whereby crude oil was obtained. The oil was purified by column chromatography (silica gel: "Fuji Davidson BW-300", column: 35 mm across×190 mm long, N2 pressure: 0.3 kg/cm2, developer: ethyl acetate:n-hexane=3:2) and then recrystallized from a mixed solvent of ethyl acetate and n-hexane, whereby 247 mg of methyl N-[3-(1,3-benzodioxol-5-yl)-2-(1,3-dithiol-2-ylidene)-3-oxopropionyl]glycinate were obtained as yellow crystals (yield: 21.6%).

reactant | 3-(1,3-benzodioxol-5-yl)-2-(1,3-dithiol-2-ylidene)-3-oxopropionic acid | 959 mg | O1COC2=C1C=CC(=C2)C(C(C(=O)O)=C2SC=CS2)=O | C13H8O5S2
reactant | triethylamine | 997 μl | C(C)N(CC)CC | C6H15N
reactant | methyl glycinate hydrochloride | 469 mg | Cl.NCC(=O)OC
reactant | diphenylphosphoryl azide | 737 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | N,N-dimethylformamide | 15.0 ml | CN(C=O)C | C3H7NO
product | methyl N-[3-(1,3-benzodioxol-5-yl)-2-(1,3-dithiol-2-ylidene)-3-oxopropionyl]glycinate | 247 mg | O1COC2=C1C=CC(=C2)C(C(C(=O)NCC(=O)OC)=C2SC=CS2)=O | C16H13NO6S2
